US08232287B2
1-(6-{[1-(1H-imidazol-1-ylcarbonyl)piperidin-4-yl]oxy}pyrimidin-4-yl)-5-(propylsulfonyl)indoline
Triethylamine (286 μL, 2.05 mmol) and 1,1′-carbonyldiimidazole (249 mg, 1.54 mmol) were added to a THF (9.00 mL) solution of the 1-[6-(piperidin-4-yloxy)pyrimidin-4-yl]-5-(propylsulfonyl)indoline hydrochloride (450 mg, 1.03 mmol) produced in Reference Example 32, and the mixture was stirred at room temperature for 3 hours. From the reaction solution, the solvent was distilled off under reduced pressure. To the residue, water was added, and the mixture was stirred. The deposit was collected by filtration and washed with water to obtain the title compound as white powder (291 mg, yield: 57%).

reactant | Triethylamine | 2.05 mmol, 286 μL | C(C)N(CC)CC | C6H15N
reactant | 1,1′-carbonyldiimidazole | 1.54 mmol, 249 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-[6-(piperidin-4-yloxy)pyrimidin-4-yl]-5-(propylsulfonyl)indoline hydrochloride | 1.03 mmol, 450 mg | Cl.N1CCC(CC1)OC1=CC(=NC=N1)N1CCC2=CC(=CC=C12)S(=O)(=O)CCC
solvent | THF | 9.00 mL | C1CCOC1 | C4H8O
product | 1-(6-{[1-(1H-imidazol-1-ylcarbonyl)piperidin-4-yl]oxy}pyrimidin-4-yl)-5-(propylsulfonyl)indoline | 291 mg, yield: 57% | N1(C=NC=C1)C(=O)N1CCC(CC1)OC1=CC(=NC=N1)N1CCC2=CC(=CC=C12)S(=O)(=O)CCC | C24H28N6O4S
